US04025622
6-(2,3,4,5,6-Penta-O-acetyl-D-gluconyl thioureido) penicillanic acid
To 50 ml of anhydrous tetrahydrofuran were added 447 mg (1 mmol) of 2,3,4,5,6-penta-O-acetyl-D-gluconyl isothiocyanate and 216 mg (1 mmol) of 6-aminopenicillanic acid and the mixture was stirred at room temperature for 24 hours. The solvent was then distilled off under a reduced pressure and the residue was crystallized by the addition of dimethylformamide. Recrystallization from dimethylformamide gave colourless needles melting at 63° C. (uncorrected). Yield: 630 mg (95%).

reactant | 6-aminopenicillanic acid | 1 mmol, 216 mg | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | penicillanic acid | CC1([C@@H](N2[C@H](S1)CC2=O)C(=O)O)C | C8H11NO3S
